US07119205B2
To Me3SOI (2.2 g, 10 mmol) in DMSO (20 mL) was added NaH (50%, 480 mg, 10 mmol). 4-Phenyl-but-3-en-2-one (1.13 g, 7.7 mmol) was added after 10 min. The reaction mixture was quenched after 30 min with water, extracted with EtOAc, and washed with water (3×30 mL). The organic extract was dried over MgSO4 and concentrated to give 1-(2-Phenyl-cyclopropyl)-ethanone (1.5 g, 97%).

reactant | NaH | 10 mmol, 480 mg | [H-].[Na+]
reactant | 4-Phenyl-but-3-en-2-one | 7.7 mmol, 1.13 g | C1(=CC=CC=C1)C=CC(C)=O | C10H10O
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 1-(2-Phenyl-cyclopropyl)-ethanone | 1.5 g, 97% | C1(=CC=CC=C1)C1C(C1)C(C)=O | C11H12O
